US05877191
Step A: 3-Bromo-5-fluoro-4-methylnitrobenzene
To 3-fluoro-4-methylnitrobenzene (4.0 gm, 25.8 mmol) was added bromine (5.2 gm, 32 mmol) and iron powder (100 mg). The mixture was heated under a condenser at 100° C. for 40 hr and then poured into ice water containing enough sodium sulfite to quench the excess bromine. The aqueous layer was extracted twice with ether and the ether layers were washed with brine, dried over sodium sulfate, combined and evaporated. The residue was purified by FC (10-20% ethyl acetate/hexanes) to afford 1.4 gm of the title compound as a white solid (the major and highest Rf isomer). NMR (CDCl3): δ 2.41 (d, 3H, J=3 Hz), 7.85 (dd, 1H, J=2.1 and 9 Hz), 8.24 (dd, 1H, J=1.8 and 2.1 Hz).

reactant | 3-fluoro-4-methylnitrobenzene | 25.8 mmol, 4.0 gm | FC=1C=C(C=CC1C)[N+](=O)[O-] | C7H6FNO2
reactant | bromine | 32 mmol, 5.2 gm | BrBr | Br2
catalyst | iron | 100 mg | [Fe] | Fe
product | 3-Bromo-5-fluoro-4-methylnitrobenzene | 1.4 gm | BrC=1C=C(C=C(C1C)F)[N+](=O)[O-] | C7H5BrFNO2
